US04835318
Under protective gas, 27.3 g (0.16 mol) of p-methoxybenzoyl chloride and 53.3 g (0.18 mol) of perfluoroisopropyl iodide in 150 ml of CH2Cl2 are initially introduced into a round-bottomed flask. 45 g (0.18 mol) of phosphorous acid trisdiethylamide are metered in at about -20° C. during the course of 3 hours. The mixture is subsequently stirred at about -10° C. for 5 hours and, after warming, worked up analogously to Example 1. 37 g (76%) of 1-(4-methoxyphenyl)-2,3,3,3-tetrafluoro-2-trifluoromethylpropan-1-one of b.p. 97°-99° C./10 mbar are obtained.

reactant | p-methoxybenzoyl chloride | 0.16 mol, 27.3 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | perfluoroisopropyl iodide | 0.18 mol, 53.3 g | FC(C(F)(F)F)(C(F)(F)F)I | C3F7I
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-methoxyphenyl)-2,3,3,3-tetrafluoro-2-trifluoromethylpropan-1-one | 37 g, 76% | COC1=CC=C(C=C1)C(C(C(F)(F)F)(C(F)(F)F)F)=O | C11H7F7O2
